US07816344B2
To a suspension of methyltriphenyl phosphonium bromide (108 g, 303 mmol) in THF (750 mL) at room temperature was added KOtBu (112.24 g, 303 mmol) in portions. After being stirred for 5 min, the reaction mixture was treated with 2′bromoacetophenone (50.3 g, 253 mmol). The reaction mixture was stirred for 3 hrs at room temperature then quenched with saturated ammonium chloride. Extracted 3× with Et2O and the combined organic layers were washed with brine, dried over MgSO4 and evaporated under vacuum. Purified by silica gel chromatography (100% petroleum ether) to give 43.8 g (88%) of 1-bromo-2-(prop-1-en-2-yl)benzene as a colorless oil.

reactant | KOtBu | 303 mmol, 112.24 g | CC(C)(C)[O-].[K+]
reactant | 2′bromoacetophenone | 253 mmol, 50.3 g | BrC1=C(C=CC=C1)C(C)=O | C8H7BrO
catalyst | methyltriphenyl phosphonium bromide | 303 mmol, 108 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | 1-bromo-2-(prop-1-en-2-yl)benzene | 43.8 g, 88% | BrC1=C(C=CC=C1)C(=C)C | C9H9Br
